US07429665B2
4-benzyloxy-N-methoxy-N -methyl-benzamide
Following the procedure for the preparation of N-Methoxy-N-methyl-4-(quinolin-2-ylmethoxy)-benzamide but substituting 4-benzyloxy benzoic acid provided the title compound as a waxy solid. MS: (M+H m/z=272.3).

reactant | N-Methoxy-N-methyl-4-(quinolin-2-ylmethoxy)-benzamide | CON(C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O)C | C19H18N2O3
reactant | 4-benzyloxy benzoic acid | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
product | 4-benzyloxy-N-methoxy-N -methyl-benzamide | C(C1=CC=CC=C1)OC1=CC=C(C(=O)N(C)OC)C=C1 | C16H17NO3
